US09029374B2
8-(1-(3-chloro-4-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (125 mg, 0.28 mmol) was reacted with piperidin-4-ol (34.0 mg, 0.34 mmol) using a procedure similar to the one described in Example 2.00 to afford 8-(1-(3-chloro-4-fluorophenylamino)ethyl)-6-(4-hydroxypiperidine-1-carbonyl)-2-morpholino-4H-chromen-4-one (110 mg, 74.2%) as a white solid. Mass Spectrum: M+H+ 530. NMR Spectrum: (DMSOd6) at 323° K: 1.24 (bs, 2H), 1.51 (d, 3H), 2.99 (bs, 2H), 3.30 (bs, 2H), 3.37 (bs, 2H), 3.49-3.63 (m, 4H), 3.63-3.72 (m, 1H), 3.72-3.82 (m, 4H), 4.62 (d, 1H), 4.92-5.02 (m, 1H), 5.56 (s, 1H), 6.36-6.46 (m, 2H), 6.59 (dd, 1H), 7.01 (dd, 1H), 7.51 (d, 1H), 7.76 (d, 1H).

reactant | 8-(1-(3-chloro-4-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.28 mmol, 125 mg | ClC=1C=C(C=CC1F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C22H20ClFN2O5
reactant | piperidin-4-ol | 0.34 mmol, 34.0 mg | N1CCC(CC1)O | C5H11NO
product | 8-(1-(3-chloro-4-fluorophenylamino)ethyl)-6-(4-hydroxypiperidine-1-carbonyl)-2-morpholino-4H-chromen-4-one | 110 mg, 74.2% | ClC=1C=C(C=CC1F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N1CCC(CC1)O | C27H29ClFN3O5
